US09334263B2
To a solution of (S)-tert-butyl 2-((4-(4-(4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate (30 mg, 0.05 mmol) in dichloromethane (2 mL) was dropwise added trifluoroacetic acid (1 mL). The reaction mixture was stirred at room temperature for 0.5 hour and concentrated. The residue was purified by Prep-HPLC to afford (S)-4-(4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazin-1-yl)-N-(1-(morpholin-2-ylmethyl)-1H-pyrazol-4-yl)-1,3,5-triazin-2-amine (14 mg, 57%) as a white solid.

reactant | (S)-tert-butyl 2-((4-(4-(4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazin-1-yl)-1,3,5-triazin-2-ylamino)-1H-pyrazol-1-yl)methyl)morpholine-4-carboxylate | 0.05 mmol, 30 mg | C1(CC1)C#CC=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C29H37N11O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (S)-4-(4-(5-(cyclopropylethynyl)pyrimidin-2-yl)piperazin-1-yl)-N-(1-(morpholin-2-ylmethyl)-1H-pyrazol-4-yl)-1,3,5-triazin-2-amine | 14 mg, 57% | C1(CC1)C#CC=1C=NC(=NC1)N1CCN(CC1)C1=NC(=NC=N1)NC=1C=NN(C1)C[C@@H]1CNCCO1 | C24H29N11O
